US04874792
(f) 3-(2-Carboxyethylthio)-3-[2-(7-(3-trifluoromethylphenylthio)heptyl)phenyl]propanoic acid
To trifluoroacetate acid (20 ml), cooled to 0° C., was added 3-mercaptopropionic acid (0.26 ml, 3 mmoles) followed by t-butyl 3-hydroxy-3-[2-(7-(3-trifluoromethylphenylthio)heptyl)phenyl]propanoate. The reaction mixture was stirred for 1 hour and evaporated. The resulting residue was diluted with carbon tetrachloride and washed with ice water. The organic layer was dried over sodium sulfate, filtered and evaporated. The resulting oil was flash chromatographed to give the desired product, -log KB value 6.8.

reactant | 3-mercaptopropionic acid | 3 mmoles, 0.26 ml | SCCC(=O)O | C3H6O2S
reactant | t-butyl 3-hydroxy-3-[2-(7-(3-trifluoromethylphenylthio)heptyl)phenyl]propanoate | OC(CC(=O)OC(C)(C)C)C1=C(C=CC=C1)CCCCCCCSC1=CC(=CC=C1)C(F)(F)F | C27H35F3O3S
solvent | trifluoroacetate | 20 ml | FC(C(=O)[O-])(F)F
product | 3-(2-Carboxyethylthio)-3-[2-(7-(3-trifluoromethylphenylthio)heptyl)phenyl]propanoic acid | C(=O)(O)CCSC(CC(=O)O)C1=C(C=CC=C1)CCCCCCCSC1=CC(=CC=C1)C(F)(F)F | C26H31F3O4S2
